### PR TITLE
pruning unused stuff

### PR DESCRIPTION
**Pull request by emarzion**

### CODE REVIEW

File: theory/Utils/Classes.v [hunk 1]
```diff
@@ -86,18 +57,49 @@ Definition has_weakening M `{PredLift M} : Prop :=
...
+Proof.
+  intros.
+  eapply plift_bind.
+  - exact H1.
+  - intros. 
+    eapply plift_ret.
+    apply H2; auto.
+Qed.
+
+Fixpoint constm_vec {A : Type} {M : Type -> Type} `{Monad M} (xM : M A) (n : nat) : M (list A) :=
```
Comment (PalindromeLeung) [inline theory/Utils/Classes.v:76]: rename *_vec fixpoints and lemmas to *_list

File: theory/Utils/Classes.v [hunk 2]
```diff
@@ -86,18 +57,49 @@ Definition has_weakening M `{PredLift M} : Prop :=
...
+  match n with
+  | O => mreturn (@nil A)
+  | S n' =>
+      x <- xM ;;
+      xs <- constm_vec xM n' ;;
+      mreturn (cons x xs)
+  end.
+
+Lemma constm_vec_length {A} {M} `{PredLift M} (m : M A) n :
```
Comment (PalindromeLeung) [inline theory/Utils/Classes.v:85]: same as above

File: theory/Utils/Classes.v [hunk 3]
```diff
@@ -86,18 +57,49 @@ Definition has_weakening M `{PredLift M} : Prop :=
...
+  - eapply plift_bind; eauto.
+    intros x _.
+    eapply plift_bind; eauto.
+    simpl.
+    intros l Hl.
+    apply plift_ret.
+    simpl; auto.
+Qed.
 
 Class PredLift2 M `{Monad M} := {
```
Comment (PalindromeLeung) [inline theory/Utils/Classes.v:101]: more refactor todo on this definition.
